US04705737
To 150 ml of water was added 85 g of sodium sulfite and then 54 g of 3-(4-bromophenylsulfonyl)benzenesulfonyl chloride was added thereto. After stirring the mixture for 2 hours at 50° C., the reaction mixture thus obtained was ice-cooled and crystals thus formed were collected by filtration. To the crystals thus obtained were added 40 ml of water, 40 ml of acetonitrile and 15 ml of methyl chloroacetate followed by refluxing for 2 hours. The reaction mixture thus formed was extracted with chloroform and then chloroform was distilled off from the extract to provide 32.7 g of oily 3-(4-bromophenylsulfonyl)phenylsulfonylacetic acid methyl ester. Then, the oily product thus obtained was added to a mixture of 60 ml of water, 60 ml of methanol, and 8.1 g of potassium hydroxide and the resultant mixture was stirred for one hour at room temperature. After adding 20 ml of 35% hydrochloric acid to the reaction mixture, the mixture was ice-cooled and crystals thus deposited were collected by filtration to provide 25.4 g of 3-(4-bromophenylsulfonyl)phenylsulfonylacetic acid. By neutralizing 21 g of the crystals thus obtained with 4.5 g of guanidine carbonate as in Synthesis Example 3 22.3 g of Base Precursor (123) was obtained. The melting point was 85° C. and the decomposition point was 95° C.

reactant | water | 150 ml | O | H2O
reactant | sodium sulfite | 85 g | S(=O)([O-])[O-].[Na+].[Na+]
reactant | 3-(4-bromophenylsulfonyl)benzenesulfonyl chloride | 54 g | BrC1=CC=C(C=C1)S(=O)(=O)C=1C=C(C=CC1)S(=O)(=O)Cl | C12H8BrClO4S2
reactant | water | 40 ml | O | H2O
reactant | methyl chloroacetate | 15 ml | ClCC(=O)OC | C3H5ClO2
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 3-(4-bromophenylsulfonyl)phenylsulfonylacetic acid methyl ester | 32.7 g | COC(CS(=O)(=O)C1=CC(=CC=C1)S(=O)(=O)C1=CC=C(C=C1)Br)=O | C15H13BrO6S2
